### PR TITLE
Alasdair/multi asset

### PR DESCRIPTION
**Pull request by Ali-Hill**
Adding Multi Asset support to the ledger model.

### CODE REVIEW

**Review by WhatisRT — CHANGES_REQUESTED** [review]
We don't have a style guide yet so for now I'm happy with whatever whitespace/formatting, except that I'd like changes to be intentional and I'd generally try to have certain things aligned and avoid long lines.

With that in mind, maybe go over the diff once and see which changes you'd like to keep and remove the rest? There are also some leftover temporary comments and files that should be removed.

I'll take a quick look and see if I can fix the issue `deriveComputational` has with the equation for `mint`.

**Comment by WhatisRT** [comment]
The issue with the equation is that `tryConstrsWith'` in `reduceDec` runs out of fuel (it's currently hard-coded to 5). It needs one fuel per clause, and this is simply adding a sixth. You could just set it to 10 or so for now. I've opened an issue for this: #48

File: src/Ledger/TokenAlgebra.lagda [hunk 1]
```diff
@@ -0,0 +1,36 @@
...
+  open CommutativeMonoid Value-Commutative-Monoid renaming (Carrier to Value; refl to reflValue; _∙_ to _+ᵛ_) public
+
+  field coin     : Value → Coin
+  field inject   : Coin → Value
+  field policies : Value → ℙ PolicyId
+  field size     : Value → MemoryEstimate
+  field property : coin ∘ inject ≗ id
+
+
+  field relImpliesCoinEquality : ∀{v1 v2} → v1 ≈ v2 → coin v1 ≡ coin v2
```
[the remark this answers is not in the document]
Comment (Ali-Hill) [reply src/Ledger/TokenAlgebra.lagda:30]: Yeah it is

File: src/Ledger/Transaction.lagda [hunk 2]
```diff
@@ -90,22 +101,27 @@ This function must produce a unique id for each unique transaction body.
...
           txup       : Maybe Update
           txADhash   : Maybe ADHash
+          netwrk    : Maybe Network
           txsize     : ℕ
-          txid       : TxId
+          txid       : TxId -- does this need to change to tx network id
 
   record TxWitnesses : Set where
     field vkSigs   : VKey ↛ Sig
-          scripts  : ℙ Script
```
[the remark this answers is not in the document]
Comment (Ali-Hill) [reply src/Ledger/Transaction.lagda:103]: This wasn't changed by me. This is what was is already in the master branch

File: src/Ledger/Utxo/Properties.lagda [hunk 3]
```diff
@@ -44,18 +46,50 @@ private variable
...
+  cbalance (utxo ∪ᵐˡ utxo') ≡⟨ relImpliesCoinEquality (indexedSumᵐ-cong {x = (utxo ∪ᵐˡ utxo') ᶠᵐ} {(utxo ᶠᵐ) ∪ᵐˡᶠ (utxo' ᶠᵐ)} (id , id)) ⟩
+  coin (indexedSumᵐ _ ((utxo ᶠᵐ) ∪ᵐˡᶠ (utxo' ᶠᵐ))) ≡⟨ relImpliesCoinEquality (indexedSumᵐ-∪ {X = utxo ᶠᵐ} {utxo' ᶠᵐ} h) ⟩
+  coin (ubalance utxo +ᵛ ubalance utxo') ≡⟨ IsCommutativeMonoidMorphism.∙-homo coin-monoid-morphism _ _ ⟩
+  cbalance utxo + cbalance utxo' ∎
 
 newTxid⇒disj : txid tx ∉ map proj₁ (dom (utxo ˢ)) → disjoint' (dom (utxo ˢ)) (dom ((outs tx) ˢ))
 newTxid⇒disj id∉utxo = disjoint⇒disjoint' λ h h' → id∉utxo $ to ∈-map
   (-, (case from ∈-map h' of λ where (_ , refl , h'') → case from ∈-map h'' of λ where (_ , refl , _) → refl) , h)
+
+{-
```
[the remark this answers is not in the document]
Comment (Ali-Hill) [reply src/Ledger/Utxo/Properties.lagda:67]: There aren't any unused lemmas. I commented out lemmas that are needed when minting was enabled again

**Comment by WhatisRT** [comment]
There are still a bunch of redundant changes and files in this PR, as well as changes that look unintentional to me. Can you please go over the diff and remove those?

**Comment by Ali-Hill** [comment]
I have gone over the diff and removed any of the redundant changes I saw. The only thing I have added that I don't use is the TotalMap definitions. Should I remove this as well?

File: src/Axiom/Set/TotalMap.agda [hunk 4]
```diff
@@ -0,0 +1,40 @@
...
+open import Axiom.Set.Rel th hiding (_∣'_; _∣^'_)
+
+open import Prelude hiding (filter)
+
+open Equivalence
+
+open import Interface.DecEq
+
+private variable A A' B : Type
+                 R R' : Rel A B
```
Comment (WhatisRT) [inline src/Axiom/Set/TotalMap.agda:18]: I think you don't need all these variables

File: src/Axiom/Set/TotalMap.agda [hunk 5]
```diff
@@ -0,0 +1,40 @@
+{-# OPTIONS --safe --no-import-sorts #-}
+{-# OPTIONS -v allTactics:100 #-}
+
+open import Agda.Primitive renaming (Set to Type)
+open import Axiom.Set
+
+module Axiom.Set.TotalMap (th : Theory) where
+open Theory th
```
Comment (WhatisRT) [inline src/Axiom/Set/TotalMap.agda:8]: Adding an empty line after `module` makes it easier to see. Also, do you need all those imports? Grouping them and sorting them alphabetically would also be nice.

File: src/Ledger/Foreign/HSLedger.agda [hunk 6]
```diff
@@ -88,6 +88,27 @@ HSScriptStructure : ScriptStructure ℕ ℕ ℕ
 HSScriptStructure = record { p1s = HSP1ScriptStructure ; ps = HSP2ScriptStructure }
 
 open import Ledger.Transaction
+open import Ledger.TokenAlgebra
+open import Data.Nat.Properties using (+-0-commutativeMonoid; _≟_)
+open import Data.Nat
+
+coinTokenAlgebra : TokenAlgebra
+coinTokenAlgebra = record
+         { PolicyId = ℕ
```
Comment (WhatisRT) [inline src/Ledger/Foreign/HSLedger.agda:97]: Please align the `=` signs and change the indentation to 2 spaces

File: src/Ledger/Foreign/HSLedger.agda [hunk 7]
```diff
@@ -88,6 +88,27 @@ HSScriptStructure : ScriptStructure ℕ ℕ ℕ
...
+         ; Value-Commutative-Monoid = +-0-commutativeMonoid
+         ; coin = id
+         ; inject = id
+         ; policies = λ x → ∅
+         ; size = λ x → 1 -- there is only ada in this token algebra
+         ; property = λ x → refl
+         ; coinIsMonoidMorphism = record { mn-homo = record
+                                                     { sm-homo = record { ⟦⟧-cong = λ z → z
+                                                       ; ∙-homo = λ x y → refl }
```
Comment (WhatisRT) [inline src/Ledger/Foreign/HSLedger.agda:106]: Please align the `;`'s with the `{` above and change the indentation to two spaces

File: src/Ledger/Foreign/HSLedger.agda [hunk 8]
```diff
@@ -138,16 +162,18 @@ instance
...
-        ; txouts   = from txouts
-        ; txfee    = txfee
-        ; txvldt   = coerce txvldt
-        ; txwdrls  = ∅ᵐ
-        ; txup     = nothing
-        ; txADhash = nothing
-        ; txsize   = txsize
-        ; txid     = txid
-        }
+                    { txins = from ⦃ Convertible-FinSet ⦃ Coercible⇒Convertible ⦄ ⦄ txins
```
Comment (WhatisRT) [inline src/Ledger/Foreign/HSLedger.agda:165]: Please align the `=` signs and restore the old indentation

File: src/Ledger/Foreign/HSLedger.agda [hunk 9]
```diff
@@ -188,22 +214,26 @@ instance
...
-        { a             = a
-        ; b             = b
-        ; maxBlockSize  = maxBlockSize
-        ; maxTxSize     = maxTxSize
-        ; maxHeaderSize = maxHeaderSize
-        ; poolDeposit   = poolDeposit
-        ; Emax          = Emax
-        ; pv            = coerce pv
-        }
+                   { a = a
```
Comment (WhatisRT) [inline src/Ledger/Foreign/HSLedger.agda:226]: Same as above, `=` signs and indentation

File: src/Ledger/Transaction.lagda [hunk 10]
```diff
@@ -12,10 +12,15 @@ open import Ledger.Prelude
...
 open import Ledger.Epoch
 open import Ledger.Crypto
+open import Ledger.TokenAlgebra
 import Ledger.PParams
 import Ledger.Script
 
 import Data.Nat as N
+open import Data.Integer
+
+data Tag : Set where
```
Comment (WhatisRT) [inline src/Ledger/Transaction.lagda:22]: This type should be unnecessary

File: src/Ledger/Utxo.lagda [hunk 11]
```diff
@@ -21,19 +21,34 @@ open import MyDebugOptions
...
 open import Ledger.PPUp
+
+-- utxoEntrySizeWithoutVal = 27 words (8 bytes)
+utxoEntrySizeWithoutVal : MemoryEstimate
+utxoEntrySizeWithoutVal = 8
+
+utxoEntrySize : TxOut → MemoryEstimate
+utxoEntrySize (fst , v) = utxoEntrySizeWithoutVal + size v
+
+-- fix this
```
Comment (WhatisRT) [inline src/Ledger/Utxo.lagda:48]:
```suggestion
-- TODO: fix this
```

File: src/Ledger/Utxo.lagda [hunk 12]
```diff
@@ -151,26 +182,35 @@ data _⊢_⇀⦇_,UTXO⦈_ where
           utxo = UTxOState.utxo s
           fees = UTxOState.fees s
       in
-    txins tx ≢ ∅
+     txins tx ≢ ∅
```
Comment (WhatisRT) [inline src/Ledger/Utxo.lagda:185]:
```suggestion
    txins tx ≢ ∅
```

File: src/Ledger/Utxo.lagda [hunk 13]
```diff
@@ -151,26 +182,35 @@ data _⊢_⇀⦇_,UTXO⦈_ where
...
     → txsize tx ≤ PParams.maxTxSize pp
+    -- Add Deposits
     ────────────────────────────────
     Γ
       ⊢ s
       ⇀⦇ tx ,UTXO⦈
       ⟦ (utxo ∣ txins tx ᶜ) ∪ᵐˡ outs tx , fees + f ⟧ᵘ
 \end{code}
 \begin{code}[hide]
--- TODO: This can't be moved into Properties because it breaks. Move
```
Comment (WhatisRT) [inline src/Ledger/Utxo.lagda:172]: Restore this TODO

**Review by WhatisRT — CHANGES_REQUESTED** [review]

**Comment by WhatisRT** [comment]
Keeping the `TotalMap` is fine, since we need that to actually implement MA

**Comment by WhatisRT** [comment]
I've rebased this on top of the branch that has CI

**Comment by jmchapman** [comment]
is this blocked by PR #51 ?

**Comment by jmchapman** [comment]
or are there more changes to be made?

**Comment by williamdemeo** [comment]
I'm working on this branch now.

@WhatisRT made a ticket (#56) for the missing MA stuff and assigned it to me. 

Andre said he also rebased the MA branch, so the only thing in the diff that doesn't belong there is the CI PR (which he'll merge tomorrow when the action has finished, and then that stuff will also disappear).

Andre also said he has already reviewed this, but since I'll be building right on top of it, it's probably a good starting point.

**Comment by williamdemeo** [comment]
For this branch, the `nix-build` commands,
```
nix-build -A ledger.executableSpec    
nix-build -A ledger.docs
nix-build -A midnight.executableSpec
nix-build -A midnight.docs
```

described in the README.md file work fine, but if I load `src/Everything.agda` into emacs and try to type-check, I get an 8700 line error, the start of which is

```
.../formal-ledger-specifications/src/Ledger/Utxo.lagda:221,1-94
reduceDec: Could not find an equation to rewrite with!
when checking that the expression
unquote
(by-derive⇔ (quote _⊢_⇀⦇_,UTXO⦈_)
 (_∷_ {_} {_}
  (Tactic.DeriveComp.STSConstr.constructor (quote UTXO-inductive)
   (takeWhile {zeroˡ}
    {_$_ {sucˡ zeroˡ} {sucˡ zeroˡ} {Set₀} {λ z → Set₀}
     (Agda.Builtin.Reflection.Abs {zeroˡ})
     (Agda.Builtin.Reflection.Arg {zeroˡ} Agda.Builtin.Reflection.Type)}
    {zeroˡ}
    {λ z →
```

**Comment by WhatisRT** [comment]
That error is the tactic running out of fuel, which is fixed by rebuilding Agda with its dependencies.

From my POV this PR is now finished but I'll wait for you to review it. Since it also has a messy history, I'll squash merge it once you've reviewed it.

**Review by williamdemeo — APPROVED** [review]
This looks great.  Nice job Alasdair.  I can't say I fully understand everything yet, but I'm getting closer... and at least I can confirm that everything type-checks on both macos (darwin) and ubuntu (22.04). 👍🏼

**Review by WhatisRT — APPROVED** [review]
